US07223766B2
4-Chloro-2-(2-fluoro-phenyl)-thieno[2,3-d]pyrimidine
2-(2-Fluoro-phenyl)-3H-thieno[2,3-d]pyrimidin-4-one (900 mg, 3.65 mmole) was dissolved in chloroform and thionyl chloride (0.532 ml, 7.30 mmole) was added to the mixture followed by 1 ml dimethylformamide. Heated the reaction mixture to reflux for 2.5 hours, the cooled mixture was washed with 10% sodium carbonate, dried the chloroform solution over sodium sulfate (anh) and removed solvent. The crude product was chromatographed on silica gel, eluting with chloroform. Upon removal of solvent obtained 438 mg product (yield: 45%).

reactant | 2-(2-Fluoro-phenyl)-3H-thieno[2,3-d]pyrimidin-4-one | 3.65 mmole, 900 mg | FC1=C(C=CC=C1)C=1NC(C2=C(N1)SC=C2)=O | C12H7FN2OS
reactant | thionyl chloride | 7.30 mmole, 0.532 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloro-2-(2-fluoro-phenyl)-thieno[2,3-d]pyrimidine | 438 mg, yield: 45% | ClC=1C2=C(N=C(N1)C1=C(C=CC=C1)F)SC=C2 | C12H6ClFN2S
